Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p fall

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ transferred from ___ for acute on 
chronic subdural hematoma. Pt reported that she fell while 
trying to get to the bathroom from bed, not sure from bed or 
while walking.  She said she hit her head.  Fall was unwitnessed 
at ___ home. Patient was found on the floor by staff 
complaining of left-sided head pain.  It was unclear whether pt 
loss consciousness, but she seemed to remembered the event, but 
could not relate how she fell or the circumstances around on. 
Per the nursing home she was last seen in bed 2 hours prior to 
being found in the floor.  Pt admits more frequent urination, 
poor po intake, but denied fever, chill, change in vision, CP, 
palpitation, SOB, N/V/D, dysuria or weakness of her extremities. 
 Per her cousin, pt was quite functinoal at baseline, active in 
nursing home activities and very talkive. 
.
Pt was initially sent to ___, where she 
was cleared for C-spine.  CT-head showed subdural hematoma.  Pt 
was sent to ___ or further management.
.
In the ED, Pt was afebrile, 92, 92/44, ___, 94-96% on 2L.  She 
had WBC of 14.1, Cr 1.2, troponin 0.03 ___KMB, EKG 
consistent with RV pacing with no ST-segment changes, CT-head 
was stable with no interval worsening, CXR has some haziness in 
RLL/RML.  Pt was evaluated by neurosurgery team.  She received 
vancomycin and zosyn for HCAP and 500 cc NS at 75 cc/hr. 
.
On arrival to the MICU, pt continue to be afebrile with SBP 
decreased to ___.  After starting NS at 75 cc/hr, her SBP 
improved to 100s.
 
Past Medical History:
Anemia
Hypothyroidism
CHF (previously uncharacterized, normal TTE while at ___ 
___
History of falls and unstable gait
Depression
Status post pacer (?heart block) 
Hyperlipidemia
GERD
Hx of left humeral fracture

 
Social History:
___
Family History:
Unable to obtain

 
Physical Exam:
ADMISSION EXAM
General: Somnolent at times, orientedX3, no acute distress  
HEENT: EOMI, PERRL, Sclera anicteric, dry mucosal membrane, 
oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Bibasilar crackles, R worse than L
Abdomen: soft, non-distended, subrapubic tenderness on 
palpation, bowel sounds present, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred, finger-to-nose intact 

On discharge:  Crackles have improved.  Still requiring minimal 
O2 (~2L), much improved from ___ earlier in hospitalization.  
Excoriations in perianal and coccyx areas, requiring wound care 
due to frequent stooling and incontinence.
 
Pertinent Results:
ADMISSION LABS
___ 06:53AM BLOOD WBC-14.1* RBC-3.71* Hgb-11.1* Hct-33.1* 
MCV-89 MCH-29.8 MCHC-33.5 RDW-13.4 Plt ___
___ 06:53AM BLOOD Neuts-76.1* ___ Monos-2.6 Eos-1.4 
Baso-0.5
___ 06:53AM BLOOD ___ PTT-21.7* ___
___ 06:53AM BLOOD Glucose-164* UreaN-56* Creat-1.2* Na-138 
K-5.7* Cl-107 HCO3-19* AnGap-18
___ 06:53AM BLOOD CK-MB-5
___ 06:53AM BLOOD Calcium-9.0 Phos-4.7* Mg-2.4
___ 08:53AM BLOOD Lactate-1.2
___ 06:53AM BLOOD TSH-0.38

PERTINENT LAB TRENDS:
___
___ 07:15AM BLOOD WBC-11.5* 
___ 05:56AM BLOOD WBC-9.8 

Na and Creatinine
___ 07:20AM BLOOD Creat-1.0 Na-146* 
___ 02:36PM BLOOD Creat-1.4*
___ 02:43AM BLOOD Creat-1.1 Na-143 
___ 11:51AM BLOOD Creat-1.1 Na-140 

Albumin
___ 06:32AM BLOOD Albumin-3.3*

Arterial blood gas
___ 01:43PM BLOOD Type-ART Temp-36.9 pO2-114* pCO2-35 
pH-7.48* calTCO2-27 Base XS-3 (on a non-rebreather)
.
DISCHARGE LABS:
___ 05:56AM BLOOD WBC-9.8 RBC-4.07* Hgb-11.5* Hct-36.1 
MCV-89 MCH-28.2 MCHC-31.8 RDW-13.8 Plt ___
___ 11:51AM BLOOD Glucose-89 UreaN-18 Creat-1.1 Na-140 
K-3.9 Cl-103 HCO3-29 AnGap-12
___ 05:56AM BLOOD Calcium-8.1* Phos-4.3 Mg-2.1

MICROBIOLOGY:
___ 9:25 am URINE     Site: CATHETER

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ENTEROCOCCUS SP..    10,000-100,000 ORGANISMS/ML.. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS SP.
                             |   
AMPICILLIN------------   <=2 S
NITROFURANTOIN--------  <=16 S
TETRACYCLINE----------   <=1 S
VANCOMYCIN------------     1 S

C. Diff - negative x2
MRSA screen - positive
Blood and urine cultures - all negative, 2 blood cultures 
pending on discharge with no growth to date

PERTINENT STUDIES
CXR (___): 
IMPRESSION: Mild pulmonary edema superimposed on basilar 
interstitial lung 
process with possibly underlying emphysema. Nodular opacity at 
the right lung base may relate to underlying fibrosis, but an 
underlying nodule is not excluded and could be further evaluated 
for on chest CT as clinically 
appropriate. Possible small bilateral pleural effusions. 
  
Reverse C-shaped calcific density projecting over the heart 
likely represents mitral annulus calcification. This could be 
confirmed with PA and lateral views. 
.
CXR (___):
IMPRESSION:  
Right PICC line ends at lower SVC. There is no pneumothorax. A 
single lead 
from left pectoral pacemaker device ends into the right 
ventricle. Dense 
calcification of mitral valve annulus is present. Since ___, 
moderate to sever pulmonary edema, moderate to large right and 
mild left 
pleural effusions are new. Mild cardiomegaly is stable. 
Mediastinal and hilar contours are unchanged. 
.
CXR (___):
IMPRESSION: AP chest compared to ___: 
  
Pulmonary edema which improved between ___ and ___ 
returned with a large pleural effusion on ___ and made it 
impossible to say whether pneumonia has changed. Today, there is 
less of a moderate-sized right pleural effusion. Small left 
pleural effusion is stable. There is at least some pulmonary 
edema and very heterogeneous opacification in the right lung and 
at the left lung base, all of which makes it difficult to 
distinguish edema from pneumonia. 
  
Heart is mildly enlarged, predominantly due to a very dilated 
left atrium as denoted by the heavily calcified mitral annulus 
which can contribute to mitral regurgitation. No pneumothorax is 
present. Transvenous right ventricular pacer lead is unchanged 
in the expected position. 
.

CT HEAD w/o contrast (___)
IMPRESSION: 
1. Slight increase in the right frontotemporal subdural 
hematoma, 
particularly inferiorly at the frontotemporal junction now 
measuring 12 mm in maximum transverse dimension. No change in 
mass effect.  
2. No evidence of subfalcine or transtentorial herniation. 
3. No new intra- or extra-axial hemorrhage outside of the 
previously 
described subdural collection. 
4. Stable global atrophy and small vessel ischemic changes. 
.
CT HEAD w/o contrast (___):
IMPRESSION: Right frontotemporal subdural hematoma, unchanged.
.
TTE (___):
The left atrium is mildly dilated. Left ventricular wall 
thickness, cavity size, and global systolic function are normal 
(LVEF>55%). Due to suboptimal technical quality, a focal wall 
motion abnormality cannot be fully excluded. Right ventricular 
chamber size and free wall motion are normal. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. Trace aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. There is moderate thickening of 
the mitral valve chordae. There is moderate functional mitral 
stenosis (mean gradient 6 mmHg) due to mitral annular 
calcification. Mild (1+) mitral regurgitation is seen. [Due to 
acoustic shadowing, the severity of mitral regurgitation may be 
significantly UNDERestimated.] The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion. 

IMPRESSION: Suboptimal image quality. Normal global 
biventricular systolic function. Technically suboptimal to 
exclude focal wall motion abnormality. Mild mitral 
regurgitation. Moderate functional mitral stenosis from annular 
calcification.  

 
Brief Hospital Course:
___ NH resident w/ hx of recurrent falls and recurrent UTI 
present with new fall, presenting with subdural hematoma and 
UTI.
. 
ACTIVE ISSUES

# Subdural hematoma: Pt presented from OSH with subdural 
hematoma.  She was evaluated by neurosurgery in the ED and was 
thought to have acute on chronic SDH.  No intervention was 
indicated.  Neuro exam was nonfocal.  Repeated CT on following 
days did not reveal interval changes.  She was started on 
dilantin 1 g in the ED, and continued with 100 mg dilantin tid 
for 10 days while in the hospital.  This was discontinued prior 
to discharge.  
.
# UTI: Pt was incontinent and wore diaper at baseline.  UTI 
appears recurrent per discussion with covering physician at 
___.  No evidence of sepsis or pyelonephritis.  Pt 
was initially covered with vancomycin/cefepime for UTI, which 
was later converted to Zosyn to more completely covered a 
suspected aspiration pneumonia (see next issue) when urine 
culture was positive for pan-sensitive enterococcus. She 
completed a full course of 7 days while in house.

# Aspiration pneumonia with concurrent pulmonary edema: Although 
pt was afebrile and had no cough, she was initially treated with 
Vancomycin and Zosyn given the concerning chest X-ray findings 
in the ED.  She was evaluated by the speech and swallow team and 
they witness frank aspiration.  Her CXR revealed ?infiltrate in 
the right lower lobe along with mild pulmonary edema.  She was 
started on Zosyn for an 10-day course.  Her pulmonary edema was 
managed with Lasix and progress was tracked with CXRs that 
showed improvement.  An echocardiogram was done and showed no 
abnormalities.
 
# Dehydration with hypernatremia: On initial presentation, we 
appeared dry likely secondary to poor po intake in the setting 
of UTI.  Her ECHO last year was notable for pulmonary 
hypertension with moderate TR, but preserved LV function per OSH 
report.  She received NS boluses in the MICU, and tolerated well 
these well.  However, she developed pulmonary edema as above, 
managed with intermittent Lasix dosing.  An echocardiogram did 
not show any abnormalities, not even the ones indicated above 
(i.e. pulmonary hypertension, moderate TR).  Therefore, she was 
discharged without any standing Lasix due to concern for her 
poor PO intake.  Her sodium was managed initially with D5W, but 
this contributed to her volume overloaded state and we instead 
allowed her to drink to thirst to correct her sodium, which was 
normal on discharge.

# s/p fall: Pt had a history of recurrent fall per report from 
nursing home.  The mechanism of all has been felt to be 
mechanical.  EKG on this admission has been stable, and no 
cardiac enzyme elevation was observed.  Pt denied history of 
seizure.  Her TSH was normal.  She will require 1:1 assistance 
with all transfers and has been continually encouraged to ask 
for help getting out of bed.  
.
CHRONIC ISSUES
# Hyperkalemia with diarrhea: Pt takes kayaxelate on ___ and 
___ at home. With her worsening diarrhea in house, we stopped 
this and it should not be continued unless follow-up show 
worsening hyperkalemia.  Her C. diff toxin tests were negative 
x2.
.
# Depression: We continued her citalopram 20 mg daily and 
initially held mirtazepine to prevent sedation.  She should 
continue on both upon discharge.
.
TRANSITIONAL ISSUES
- Pt declared a code status of DNR/DNI
- Bi-weekly lab draws to ensure stable electrolytes and 
creatinine
- Please encourage PO intake, keeping mind aspiration 
precautions
- Monitor oxygen saturation and please keep above 92% with nasal 
cannula PRN.

- Ms. ___ is very reliant on others for her care.  Her 
respiratory status was of concern to us during this 
hospitalization.  If she continues to require a higher level of 
care to manage these issues, we would recommend considering 
hospice care.
 
Medications on Admission:
MVI  
Fluticasone 50mcg spray daily  
Artificial tears BID  
Senna  
Loratadine prn  
Omeprazole 20mg daily  
Bicarb  
Citalopram 20mg daily  
Kayexalate twice weekly (M/Th)  
Ear drops- 3 drops into right ear for the first 3 days of every 
month  
Calcium carbonate 200(500)mg tablet TID  
Mirtazapine- 30mg PO qHS  
Refresh tears 0.5% drops- 1 drop each eye TID  
Lasix 20mg daily (started ___  

 
Discharge Medications:
1. citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. fluticasone 50 mcg/Actuation Spray, Suspension Sig: One (1) 
Spray Nasal DAILY (Daily).  
4. polyvinyl alcohol 1.4 % Drops Sig: ___ Drops Ophthalmic PRN 
(as needed) as needed for dry eyes.  
5. mirtazapine 15 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
6. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
7. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain.  
8. calcium acetate-aluminum sulf     Packet Sig: One (1) Packet 
Topical BID (2 times a day) as needed for wound care.  
9. loratadine 10 mg Tablet Sig: One (1) Tablet PO once a day as 
needed for allergy symptoms.  
10. senna 8.6 mg Tablet Sig: One (1) Tablet PO once a day as 
needed for constipation.  
11. calcium carbonate 200 mg calcium (500 mg) Tablet, Chewable 
Sig: One (1) Tablet, Chewable PO three times a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Primary diagnoses:
Subdural hemorrhage
Aspiration pneumonia
Pulmonary edema
Delirium
Urinary tract infection

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at the ___ 
___.  You were initially admitted after you fell and 
had some bleeding in your head.  The neurosurgeons felt that you 
were safe to allow this to resolve on its own.  You spent a 
short amount of time in the intensive care unit and then were 
transferred to the medical floor.  You had difficulty with your 
breathing and required extra oxygen.  We gave you some 
medication to prevent fluid build-up in your lungs and did some 
tests of your heart to help determine a cause.  This test 
("echocardiogram") was very normal and you will not be continued 
on this medication (diuretics).

You are also having some difficulty with eating and sometimes 
choke on your food and drinks.  You should continue to drink 
only thickened liquids and ground solids so that swallowing is 
easier for you.  Otherwise you could develop more difficulty 
breathing and even a pneumonia, which you did while you were 
here.

You were a little bit confused at times during your 
hospitalization but are doing much better now after we treated 
both your pneumonia and urinary tract infections.

We have made the following changes to your medications:
STOP Lasix, since we do not want to dehydrate you if you're 
unable to drink enough.
STOP Kayexelate, as your potassium is normal and your diarrhea 
worsened while on it.

We have not started any new medications.  Please only take the 
colace and senna if you are constipated.
 
Followup Instructions:
___